US04923857
To a solution of 1-benzyl-2-t-butyldimethylsilyloxymethyl-5-hydroxymethylpyrrolidine (10 g) in tetrahydrofuran (100 ml) was added portionwise sodium hydride (2.3 g) at 0° C. The mixture was stirred at the same temperature for 30 minutes. And then methyl iodide was added to the mixture. After stirring for an hour at room temperature, water and ethyl acetate was added thereto. The aqueous layer was separated and washed twice with ethyl acetate. The combined organic layer was washed with saturated aqueous sodium hydrogen carbonate, water and brine successively, dried over magnesium sulfate and evaporated under reduced pressure to give 1-benzyl-2-t-butyldimethylsilyloxymethyl-5-methoxymethylpyrrolidine (9.99 g).

reactant | 1-benzyl-2-t-butyldimethylsilyloxymethyl-5-hydroxymethylpyrrolidine | 10 g | C(C1=CC=CC=C1)N1C(CCC1CO)CO[Si](C)(C)C(C)(C)C | C19H33NO2Si
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-2-t-butyldimethylsilyloxymethyl-5-methoxymethylpyrrolidine | 9.99 g | C(C1=CC=CC=C1)N1C(CCC1COC)CO[Si](C)(C)C(C)(C)C | C20H35NO2Si
